US05202356
4-Bromo-2-fluorotoluene (ex Fluorochem) in glacial acetic acid (88 ml) and acetic anhydride (89.7 g) was cooled to -10°. Sulphuric acid (11.7 g) was added dropwise keeping the reaction temperature lower than -5°. Chromium trioxide (14.7 g) was added portionwise at 0°, the mixture was poured onto ice (300 g) and worked up as usual to give diacetoxymethyl-2-fluoro-4-bromobenzene.

reactant | 4-Bromo-2-fluorotoluene | BrC1=CC(=C(C=C1)C)F | C7H6BrF
reactant | acetic anhydride | 89.7 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | Sulphuric acid | 11.7 g | S(O)(O)(=O)=O | H2O4S
reactant | acetic acid | 88 ml | C(C)(=O)O | C2H4O2
catalyst | Chromium trioxide | 14.7 g | [O-2].[O-2].[O-2].[Cr+6]
product | diacetoxymethyl-2-fluoro-4-bromobenzene | C(C)(=O)OC(OC(C)=O)C1=C(C=C(C=C1)Br)F | C11H10BrFO4
